US04507297
Under cooling with ice, a 0.48N sodium hydroxide-ethanol solution (54.2 ml) was added dropwise to an ethanol solution (70 ml) of ethyl trans-3-[(s)-1-(4-diphenylmethylpiperazine-1-yl carbonyl)-3-methylbutyl carbamoyl]oxirane-2-carboxylate (13.2 g) obtained above. After stirring at room temperature for 3 hours, the solvent was removed by distillation under reduced pressure, and the reaction mixture was further dried under reduced pressure to yield 12.4 g of sodium trans-3-[(s)-1-(4-diphenylmethylpiperazine-1-yl carbonyl)-3-methylbutylcarbamoyl]oxirane-2-carboxylate as a light yellow powder (yield: 95%).

reactant | sodium hydroxide ethanol | 0.48N, 54.2 ml | [OH-].[Na+].C(C)O
reactant | ethyl trans-3-[(s)-1-(4-diphenylmethylpiperazine-1-yl carbonyl)-3-methylbutyl carbamoyl]oxirane-2-carboxylate | 13.2 g | C1(=CC=CC=C1)C(N1CCN(CC1)C(=O)[C@H](CC(C)C)NC(=O)[C@H]1[C@@H](O1)C(=O)OCC)C1=CC=CC=C1 | C29H37N3O5
solvent | ethanol | 70 ml | C(C)O | C2H6O
product | sodium trans-3-[(s)-1-(4-diphenylmethylpiperazine-1-yl carbonyl)-3-methylbutylcarbamoyl]oxirane-2-carboxylate | 12.4 g, yield: 95% | C1(=CC=CC=C1)C(N1CCN(CC1)C(=O)[C@H](CC(C)C)NC(=O)[C@H]1[C@@H](O1)C(=O)[O-])C1=CC=CC=C1.[Na+] | InChI=1S/C27H33N3O5.Na/c1-18(2)17-21(28-25(31)23-24(35-23)27(33)34)26(32)30-15-13-29(14-16-30)22(19-9-5-3-6-10-19)20-11-7-4-8-12-20;/h3-12,18,21-24H,13-17H2,1-2H3,(H,28,31)(H,33,34);/q;+1/p-1/t21-,23+,24+;/m0./s1
